US04107326
1-Benzyl-3-(2,6-dimethylbenzylideneamino)guanidine
A solution of 1.34 g. of 2,6-dimethylbenzaldehyde [G. Lock and K. Schmidt, J. Prakt. Chem., 140, 229 (1934) and 2.92 g. of 1-amino-3-benzylguanidine hydroiodide in 25 ml. of absolute ethanol is heated at reflux for 18 hours. The solution is evaporated under reduced pressure to give a syrup which is made alkaline with aqueous NaOH. The mixture is extracted with chloroform. The chloroform extract is evaporated under reduced pressure to give a yellow syrup. Trituration of this syrup with diethyl ether and n-hexane, followed by filtration, gives the desired product as light pink crystals, m.p. 125°-126° C.

reactant | 2,6-dimethylbenzaldehyde | CC1=C(C=O)C(=CC=C1)C | C9H10O
reactant | 1-amino-3-benzylguanidine hydroiodide | I.NNC(=N)NCC1=CC=CC=C1
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Benzyl-3-(2,6-dimethylbenzylideneamino)guanidine | C(C1=CC=CC=C1)NC(=N)NN=CC1=C(C=CC=C1C)C | C17H20N4
